US06787543B2
Methanesulfonyl chloride (22.1 mg) was added to a mixture of (4R,9aS)-4-benzhydryl-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydro-2H-pyrazino[1,2-a]pyrazine trihydrochloride (100 mg) and N,N-diisopropylethylamine (116 μl) in dichloromethane under ice-cooling. After being stirred at the same temperature for 2 hours the mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulphate, and evaporated under reduced pressure. The resulting oil was purified by column chromatography on silica gel using a mixed solvent of dichloromethane and methanol. The fractions containing the objective compound was collected and evaporated under reduced pressure and the resulting residue was treated with 4N hydrogen chloride in ethyl acetate to give (4R,9aR)-4-benzhydryl-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]-8-(methylsulfonyl)octahydro-2H-pyrazino[1,2-a]pyrazine dihydrochloride (52.8 mg) as colourless powder.

reactant | Methanesulfonyl chloride | 22.1 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | (4R,9aS)-4-benzhydryl-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydro-2H-pyrazino[1,2-a]pyrazine trihydrochloride | 100 mg | Cl.Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(C[C@H]2N1CCNC2)CC2=C(C=CC(=C2)N2N=NN=C2C(F)(F)F)OC
reactant | N,N-diisopropylethylamine | 116 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (4R,9aR)-4-benzhydryl-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]-8-(methylsulfonyl)octahydro-2H-pyrazino[1,2-a]pyrazine dihydrochloride | 52.8 mg | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(C[C@H]2N1CCN(C2)S(=O)(=O)C)CC2=C(C=CC(=C2)N2N=NN=C2C(F)(F)F)OC | InChI=1S/C31H34F3N7O3S.2ClH/c1-44-28-14-13-25(41-30(31(32,33)34)35-36-37-41)17-24(28)18-38-19-26-20-39(45(2,42)43)15-16-40(26)27(21-38)29(22-9-5-3-6-10-22)23-11-7-4-8-12-23;;/h3-14,17,26-27,29H,15-16,18-21H2,1-2H3;2*1H/t26-,27+;;/m1../s1
